US07241791B2
4-(1-cyclopentyl-7-fluoro-1H-indazol-3-yl)phenyl 3,3-dimethylbutanoate
Prepared according to Method E from 4-(1-cyclopentyl-7-fluoro-1H-indazol-3-yl)phenol (0.30 g, 1.0 mmol), 3,3-dimethylbutanoyl chloride (0.167 mL, 1.2 mmol) and N,N-diisopropylethylamine (0.21 mL, 1.2 mmol) to give 0.347 g of the title compound as a white solid, mp 74–75° C.;

reactant | 4-(1-cyclopentyl-7-fluoro-1H-indazol-3-yl)phenol | 1.0 mmol, 0.30 g | C1(CCCC1)N1N=C(C2=CC=CC(=C12)F)C1=CC=C(C=C1)O | C18H17FN2O
reactant | 3,3-dimethylbutanoyl chloride | 1.2 mmol, 0.167 mL | CC(CC(=O)Cl)(C)C | C6H11ClO
reactant | N,N-diisopropylethylamine | 1.2 mmol, 0.21 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | 4-(1-cyclopentyl-7-fluoro-1H-indazol-3-yl)phenyl 3,3-dimethylbutanoate | 0.347 g | CC(CC(=O)OC1=CC=C(C=C1)C1=NN(C2=C(C=CC=C12)F)C1CCCC1)(C)C | C24H27FN2O2
